US04080339
7-Propargyl-3-methyl-5,6-dihydroimidazo[2,1-b]thiazolium bromide (R1 = CH≡CCH2 ; R2 = R3 = CH3 ; R4 and R5 = H; X = Br)
A solution of 12 g. of propargyl bromide and 14 g. of 3-methyl-5,7-dihydroimidazo[2,1-b]thiazole (prepared by basification of 3-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride with 5N sodium hydroxide solution) in 160 ml. of dry acetonitrile is allowed to stir at room temperature for 16 hrs. The solution is concentrated to a small volume and the precipitated product filtered. The purified product is obtained by recrystallization from acetonitrile-ethyl acetate, 21 g., m.p. 207°-208° C.

reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | 3-methyl-5,7-dihydroimidazo[2,1-b]thiazole | 5N | CC=1N2C(SC1)NCC2 | C6H10N2S
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-Propargyl-3-methyl-5,6-dihydroimidazo[2,1-b]thiazolium bromide | [Br-].C(C#C)N1CC[N+]2=C1SC=C2C | InChI=1S/C9H11N2S.BrH/c1-3-4-10-5-6-11-8(2)7-12-9(10)11;/h1,7H,4-6H2,2H3;1H/q+1;/p-1
